US08183380B2
rac-N′-{2-[(8-Methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)amino]quinolin-6-yl}-N,N-dimethylsulfamide
The title compound was prepared in accordance with the general method described in example 66 from dimethylsulfamoyl chloride and rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine; MS: m/e=427.3 (M+H+).

reactant | dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)N | C20H21N3O
product | rac-N′-{2-[(8-Methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)amino]quinolin-6-yl}-N,N-dimethylsulfamide | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)NS(=O)(=O)N(C)C | C22H26N4O3S
